US05684032
Preparation of 1-(2-chloro-4,5-methylenedioxybenzyl)-5-(3-methoxybenzyloxy)-3-phenylindole-2-carboxylic acid
Following the procedure of Example 26(c)-26(d), except substituting ethyl 1-(2-chloro-4,5-methylenedioxybenzyl)-5-hydroxy-3-phenylindole-2-carboxylate for 1-(2-chloro-4,5-methylenedioxybenzyl)-3-(3,5-dichlorophenyl)-5-hydroxyindole-2-carboxylate and 3-methoxybenzyl chloride for 4-trifluoromethoxybenzyl bromide in step (c), the title compound was prepared as a white solid (64% overall). MS (MH+): 542.4

reactant | 1-(2-chloro-4,5-methylenedioxybenzyl)-3-(3,5-dichlorophenyl)-5-hydroxyindole-2-carboxylate | ClC1=C(CN2C(=C(C3=CC(=CC=C23)O)C2=CC(=CC(=C2)Cl)Cl)C(=O)[O-])C=C2C(=C1)OCO2
reactant | 3-methoxybenzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | 4-trifluoromethoxybenzyl bromide | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
product | 1-(2-chloro-4,5-methylenedioxybenzyl)-5-(3-methoxybenzyloxy)-3-phenylindole-2-carboxylic acid | ClC1=C(CN2C(=C(C3=CC(=CC=C23)OCC2=CC(=CC=C2)OC)C2=CC=CC=C2)C(=O)O)C=C2C(=C1)OCO2 | C31H24ClNO6
